US04804773
A strip of aluminum foil weighing 278 mg (10 mmol) was amalgamated by immersion in a solution of 2% mercuric chloride in water for 15 seconds, washed with absolute ethanol followed by diethyl ether, cut into small pieces, and added to a solution of 353 mg (1.0 mmol) of 1,4-dihydro-1-oxo-4-triethylsiloxy-4-trifluoromethylnaphthalene in 10 mL of 10% water - 90% tetrahydrofuran. The resulting mixture was heated at 70° C. for 1.5 hours, allowed to cool to room temperature, and filtered. The filter cake was washed with diethyl ether. Concentration of the combined filtrates gave a residue which was poured into 25 mL of water. The aqueous mixture was extracted with three 10 mL portions of dichloromethane. Combination, drying (MgSO4), and concentration of the organic layers gave a residue which was purified by PTLC (one 2 mm silica gel plate eluted with dichloromethane), affording 190 mg (90% yield) of 4-trifluoromethyl-1-naphthol as a white solid. An analytical sample was obtained by recrystallization from dichloromethane-hexane: mp 132°-133° C.; 1H NMR (CDCl3)δ5.50 (broad s, 1H), 6.79 (d, 1H, J=8Hz), 7.50-7.80 (m, 3H), 8.10- 8.45 (m, 2H); 19F NMR (CDCl3, relative to CFCl3)-59.5 ppm (s); IR (KBr) 3327, 1580, 1385, 1355, 1327, 1260, 1251, 1241, 1195, 1178, 1146, 1120, 1111, 1101, 1056, 767, cm-1 ; mass spectrum (70 eV) m/z (relative intensity) 212 (100, M+), 133 (32), 115 (100). Anal. Calcd. for C11H7F3O: C, 62.27; H, 3.33. Found: C, 61.82; H, 3.50.

reactant | aluminum | [Al] | Al
reactant | 1,4-dihydro-1-oxo-4-triethylsiloxy-4-trifluoromethylnaphthalene | 1.0 mmol, 353 mg | O=C1C=CC(C2=CC=CC=C12)(C(F)(F)F)O[Si](CC)(CC)CC | C17H21F3O2Si
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 4-trifluoromethyl-1-naphthol | 190 mg, 90% yield | FC(C1=CC=C(C2=CC=CC=C12)O)(F)F | C11H7F3O
